US07842688B2
m) 6-(Tetrahydropyran-2-yloxymethyl)-4H-benzo[1,4]oxazin-3-one
The solution of 5.0 g of 6-hydroxymethyl-4H-benzo[1,4]oxazin-3-one in 60 ml of dichloromethane is admixed successively with 5.20 ml of 3,4-dihydro-2H-pyran and 0.236 g of p-toluenesulphonic acid monohydrate. The reaction mixture is stirred at room temperature over 14 hours. The solution is poured onto 1M sodium hydrogencarbonate solution (300 ml) and extracted with tert-butyl methyl ether (2×400 ml). The organic phase is washed with brine (300 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a beige solid from the residue by means of crystallization (EtOAc/heptane). Rf=0.25 (1:1 EtOAc-heptane); Rt=3.45.

reactant | 6-hydroxymethyl-4H-benzo[1,4]oxazin-3-one | 5.0 g | OCC=1C=CC2=C(NC(CO2)=O)C1 | C9H9NO3
reactant | 3,4-dihydro-2H-pyran | 5.20 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulphonic acid monohydrate | 0.236 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogencarbonate | 1M, 300 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 6-(Tetrahydropyran-2-yloxymethyl)-4H-benzo[1,4]oxazin-3-one | O1C(CCCC1)OCC=1C=CC2=C(NC(CO2)=O)C1 | C14H17NO4
